US04670434
Into a well-stirred solution of N-methyl-N-cyclohexylamine (29.5 ml) and sodium carbonate (28.8 g) in tetrahydrofuran (250 ml) and water (500 ml) cooled to 0° C. in an ice bath was added the tetrahydrofuran solution of the 4-(3-formyl-4-nitrophenyl)oxybutanoic acid chloride from Preparation 3 dropwise. When addition of the acid chloride was completed, the cooling bath was removed and the mixture allowed to stir at room temperature for 1 hour. Most of the tetrahydrofuran was removed by evaporation and the aqueous residue partitioned between ethyl acetate and saturated sodium carbonate (500 ml each). The combined organic layers were washed with additional saturated sodium carbonate (2×20 ml), water (1×100 ml), 1M HCl (2×200 ml) and with brine (2×200 ml) and dried with sodium sulfate. The ethyl acetate was evaporated to give a residue which was crystallized from ethyl acetate to give N-cyclohexyl-N-methyl-4-(3-formyl-4-nitrophenyl)oxybutanamide, (m.p. 98°-100° C.). Alternatively, the extraction residue was chromatographed on silica gel (10% ethyl acetate in dichloromethane as eluant.)

reactant | N-methyl-N-cyclohexylamine | 29.5 ml | CNC1CCCCC1 | C7H15N
reactant | sodium carbonate | 28.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(3-formyl-4-nitrophenyl)oxybutanoic acid chloride | C(=O)C=1C=C(C=CC1[N+](=O)[O-])OCCCC(=O)Cl | C11H10ClNO5
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
product | N-cyclohexyl-N-methyl-4-(3-formyl-4-nitrophenyl)oxybutanamide | C1(CCCCC1)N(C(CCCOC1=CC(=C(C=C1)[N+](=O)[O-])C=O)=O)C | C18H24N2O5
